Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
suicidal ideation
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old homeless ___ trangender woman with history of 
depression with multiple psychiatric hospitalizaitons, 
intracranial hemorrhage, and a seizure disorder presents to the 
ED with suicidal ideation with plan.  The patient reports that 
she has been bullied over the last several months by the women 
at the ___.  She reports that recently they started to 
spread rumors that she was a sex offender. She says that this 
has made her so depressed that she has had frequent thoughts of 
suicidal ideation.  She reports that before her presentation, 
she had broken one of her razors was thinking about cutting her 
wrist and her neck.  She then decided to call the on-call person 
at ___ who recommended that Ms. ___ come into 
the hospital.  She is unable to indentify any protective factors 
and does not feel like she has the proper coping mechanisms to 
do well at a CSU.  She also notes that she is ran out of effexor 
two days ago, which was prescribed for her after her last 
suicide attempt and that medication had made her feel "better."  
She denies any homicidal ideation, but does note that if she did 
not leave the shelter she would have "grabbed them [the women 
bullying her] by the throat and choke them/seriously injure 
them." When asked what she thought the consequences of that 
would be she did not answer, later saying that "maybe" she would 
have been arrested.
.
The patient has a lot of social stressors lately. She was 
previously staying at her aunts and uncles place in ___, but 
they did not accept her transgender identity and she was kicked 
out of the house. She has since been living at the ___ 
and has been facing the bullying as described above.  She had 
multiple suicides in the past, but the most recent was very 
impulsive as she had attempted to shoot herself with a friend's 
gun, but reports just missing her head.
.
She endorses many neurovegetative symptoms of depression 
includng difficulty falling asleep, anhedonia, decreased energy 
and appetite without weight loss, and difficulty concentrating. 
She reports memory problems that seem residual from her stroke. 
Patient denies any history concerning for a manic episode. 
Denies hallucinations. Denies paranoia.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: Depression
- Hospitalizations: Multiple hospitalizations in ___ and ___. Most
recent in ___ at ___. Was at ___ in ___.
- Current treaters and treatment: Dr. ___ not met yet,
appointment for ___, on waiting list for therapy.
- Medication and ECT trials: Prozac, tegretol, trazodone 
- SA/SIB: Placed gun to her head and pulled the trigger before
narrowly missing her head in ___. Overdose in ___.  Arm
cutting ___ years ago.
- Harm to others: Denies
- Trauma: Assaulted at ___ years old by male hospital worker.
Recent bullying by women at the homeless shelter.
- Access to weapons: Does have access to razors at the ___. No access to firearms.

PAST MEDICAL HISTORY:
- Intracranial Hemorrhage with left-sided weakness requiring
walker. History of frequent falls.
- Seizure disorder.                                          

MEDICATIONS including vitamins, herbs, supplements, OTC:
Effexor 150mg PO DAILY
Trazodone 50mg PO QHS
Aspirin 81mg PO DAILY
Multivitamin 1 tab PO DAILY

ALLERGIES:
Patient reports no known allergies to drugs

 
Social History:
SUBSTANCE ABUSE HISTORY:
Denies use of alcohol, tobacco, opiates, cocaine, 
methamphetamines, and marijuana.

FORENSIC HISTORY:
Arrests: Denies
Convictions and jail terms: Denies
Current status (pending charges, probation, parole): N/A

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Sister with schizophrenia with many psychiatric hospitalizations 
- "She may be in one right now", No history of suicides in the 
family.

 
Physical Exam:
*VS:  BP: 148/88  HR: 75   temp: 98.3   resp: 16 O2 sat: 99%  

Neurological:  
 *station and gait: Uses a walker to walk
 *tone and strength: Increased tone in the left extremities 
(greater in the ___ than UE).
 cranial nerves: Not tested
 abnormal movements: No abnormal movements noted on exam.
 frontal release: No frontal release signs present.

Cognition: 
 Wakefulness/alertness: Alert and awake throughout entire exam.
 *Attention (digit span, MOYB): ___, 
___.. I can't remember going backwards but I can do 
it forward." Upon encouragement to try further, she was not able 
to get beyond ___ after restarting.
 *Orientation: Oriented to self, place, city, state, month, 
year,
and time.
 Executive function (go-no go, Luria, trails, FAS): Not tested
 *Memory: Registers 3 items initial and recalls all 3 after 5 
minutes
 *Fund of knowledge: Presidents to ___ (with clue that ___ 
was his vice president)
 Calculations: Calculates 7 quarters as $1.75 
 Abstraction: "People in glass houses shouldn't through stones"
interpreted as "Be happy with the home that you have."
 Visuospatial: Not tested
 *Speech: Slightly dysarthric, somewhat halting and stuttering 
speech pattern.
 *Language: ___, fluent
 
Mental Status:
 *Appearance: Middle-age man with a beard and a lot of body hair
lying in bed on her side. Thin. Esotropia. No acute distress.
 Behavior: Cooperative, friendly
 *Mood and Affect: "Depressed"/Flat affect
 *Thought process / *associations:  Linear.  No LOA
*Thought Content: No evidence of hallucinations. +SI as above. 
No HI.
 *Judgment and Insight:  Limited/Limited

 
Pertinent Results:
___ 09:55AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:45AM   GLUCOSE-90 UREA N-14 CREAT-0.8 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-33* ANION GAP-12
___ 09:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:45AM   WBC-8.1 RBC-5.39 HGB-16.8 HCT-47.4 MCV-88 
MCH-31.1 MCHC-35.4* RDW-14.6
___ 09:45AM   NEUTS-58.3 ___ MONOS-7.0 EOS-5.7* 
BASOS-0.7
___ 09:45AM   PLT COUNT-160
 
Brief Hospital Course:
GLOBAL ASSESSMENT
This is a ___ year old male to female transgendered patient with 
a history of depression with two prior hospitalizations for 
suicidal ideation, with medical history significant for an 
intracranial hemorrhage with residual left-sided weakness, 
blindness, and dysarthria following traumatic car versus 
pedestrian incident, and a possible history of seizure disorder 
who presents with suicidal ideation with plan to cut her wrist 
and neck with a razor blade in the setting of bullying at her 
shelter. She endorsed many neurovegetative symptoms and 
expressed hopelessness in the context of the verbal harrassment, 
but outside of that context is functioning well in the 
community.  Presentation is consistent with the patient's 
history of major depression, but would qualify this episode as 
mild.    The patient's neurological injuries make communication 
difficult, but she remained motivated to improve her situation 
and seek psychiatric attention. 
.
PSYCHIATRIC
#MILD DEPRESSION:  Patient was continued on home Venlafaxine 
extended release 150 mg daily and used trazodone 50 mg at 
bedtime as needed for insomnia.  The patient felt that these 
medications were therapeutic and reported no side effects.  On 
the day of discharge, the patient revealed that she had feelings 
of wanting to harm the women who bullied her at ___. 
 It was felt patient could benefit from another day of 
hospitalization in order to cope with those feelings.  On the 
day of discharge, she denied intent or thought of wanting to 
harm anyone and felt safe for discharge.
.
GENERAL MEDICAL CONDITIONS
#NEURO - TBI:  At baseline, patient uses walker to mobilize.  
There were no acute decompensations in her neurological injuries 
during admission.
.
#TRANSGENDER:  The patient is pre-hormone therapy and 
pre-surgical intervention.  The patient explained that her PCP 
would be assisting her with initiation of such once a 
relationship with psychiatry was firmly established in the 
coming months.
.
#CHRONIC PAIN:  Patient not on opioid medications, and did not 
seek such in the hospital.  Ibuprofen was provided on a prn 
basis for chronic back and knee pain.  
.
PSYCHOSOCIAL
#GROUPS/MILIEU:  Patient was minimally engaged in group therapy, 
but was seen intermittently in the milieu.  There were no acute 
behavioral issues.
.
#COLLATERAL FROM FAMILY/FRIENDS:  None obtained, as patient did 
not feel contact with estranged family would prove to be 
beneficial.
.
#COLLATERAL FROM PROVIDERS
Dr. ___ that she regularly follows the patient and 
will continue to do so as an outpatient.  She visited the 
patient while she was admitted to the hospital.  There were no 
acute medical/safety concerns expressed.  The pt has been put on 
the list for a psychiatric intake at ___ for ongoing 
support.
.
#INTERVENTIONS
The team was able to liaison with ___ to 
advocate on behalf of the patient to the Director there, that 
Ms. ___ was a victim of harrassment on their property. 
They recommended against filing a formal harrassment complaint, 
but did guarantee that the harrassers would be spoken to prior 
to the patient returning to the shelter.  The patient felt that 
such was acceptable for the time being, but did states he would 
file a formal complaint if the harrassment continued.
.
LEGAL STATUS
Pt remained on a CV during admission.
.
RISK ASSESSMENT
The patient remains at low risk for self-harm/suicide due to 
help-seeking behavior, medical compliance, no substance use, no 
weapons in her possession, no prior suicide attempts, and good 
functioning in the community despite social stressors.  Risk 
factors include being transgender, homeless, without stable 
social supports, and having chronic medical issues.  At the time 
of discharge, the patient reported no SI/HI and felt safe with 
discharge into the community.
.
PROGNOSIS
Fair - Pt has a mild mental illness and very high level of 
resiliency.  She is quite marginalized, however, given family 
evicting her upon learning of transgender status and recent 
harrassment over such at a shelter.  Given this and the 
patient's lack of employment, physical illnesses, and 
homelessness; she is at risk for worsening depression in the 
future.
 
Medications on Admission:
Venlafaxine XR 150 mg PO DAILY
 
Discharge Medications:
1. TraZODone 50 mg PO QHS 
2. Venlafaxine XR 150 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
___ yo white biological male appearing stated age, wearing tshirt 
and scrubs, fairly groomed, makes good eye contact; no PMA or 
PMR, cooperative; mood "great" affect euthymic, thought process 
linear, logical, goal-oriented, no LOA; denies AVHs, denies 
SI/HI, no delusions or paranoia; speech dysarthric, but normal 
rate and volume; judgment/insight fair/fair.
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___